US05306728
16.8 g of 5-hydroxymethyl-2-furaldehyde was dissolved in 70 ml of methanol, and 14.7 ml of methyl orthoformate and 170 mg of pyridinium p-toluenesulfonate were added. After the mixture was stirred at room temperature for 2 hours, 350 mg of sodium bicarbonate was added . The solution was stirred at room temperature for 30 minutes, and then ethyl ether and water were added. The organic layer separated was worked up in a customary manner to give 21.6 g of 5-hydroxymethyl-2-furaldehyde dimethylacetal as a pale brown oil.

reactant | 5-hydroxymethyl-2-furaldehyde | 16.8 g | OCC1=CC=C(O1)C=O | C6H6O3
reactant | methyl orthoformate | 14.7 ml | C(OC)([O-])[O-]
reactant | pyridinium p-toluenesulfonate | 170 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | sodium bicarbonate | 350 mg | C([O-])(O)=O.[Na+]
solvent | methanol | 70 ml | CO | CH4O
solvent | water | O | H2O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 5-hydroxymethyl-2-furaldehyde dimethylacetal | 21.6 g | COC(C=1OC(=CC1)CO)OC | C8H12O4
